.options nonlin contiuation=gmin
*.options timeint method=trap
.options device temp=26.85
.options parser model_binning=true

.param mc_mm_switch=0
.param mc_pr_switch=0
.lib "/home/chenliyu/OpenLane/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.param kw = 1
.param pvdd = 1.8

*Change Vdd1 to different voltages
Vdd1 out 0 0
Vin in 0 dc 1.8 ac 1

XM1 out in 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 
H1 out_p 0 Vdd1 1

.noise v(out_p) Vin dec 10 1k 100000000T 1

.print noise inoise onoise DNI(XM1:MSKY130_FD_PR__NFET_01V8,ID) DNO(XM1:MSKY130_FD_PR__NFET_01V8,ID)
+DNI(XM1:MSKY130_FD_PR__NFET_01V8,FL) 
+DNO(XM1:MSKY130_FD_PR__NFET_01V8,FL) 
+DNI(XM1:MSKY130_FD_PR__NFET_01V8,RD) 
+DNO(XM1:MSKY130_FD_PR__NFET_01V8,RD) 
+DNI(XM1:MSKY130_FD_PR__NFET_01V8,RBPS) 
+DNO(XM1:MSKY130_FD_PR__NFET_01V8,RBPS) 

.end
